US07459562B2
B) tert-Butyl 6-(2-(trimethylsilyl)ethynyl)pyridin-3-ylcarbamate
A solution 6-(2-(trimethylsilyl)ethynyl)pyridin-3-amine (0.5 g, 2.6 mmol) in THF was cooled to −50° C. and treated dropwise with 1.0 M NaHMDS in THF (5.3 mL, 5.5 mmol). The mixture was warmed to −20° C., treated with BOC anhydride in one portion and allowed to warm to RT over 25 min. The mixture was partitioned between EtOAc and saturated aqueous NaHCO3 solution and the EtOAc phase was separated and washed with brine. The EtOAc solution was dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography on SiO2 using 0-25% EtOAc/hexanes to give the product (0.5 g, 67%) as a white solid. 1H NMR (DMSO-d6) δ 9.80 (s, 1H), 8.58 (d, 1H, J=2.0 Hz), 7.86 (dd, J=8.6, 2.5 Hz, 1H), 7.44 (d, 1H, J=8.6 Hz), 1.47 (s, 9H), 0.22 (s, 9H); MS(ESI+): m/z 291.34 (M+H)+.

reactant | 6-(2-(trimethylsilyl)ethynyl)pyridin-3-amine | 2.6 mmol, 0.5 g | C[Si](C#CC1=CC=C(C=N1)N)(C)C | C10H14N2Si
reactant | NaHMDS | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | BOC anhydride | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5.5 mmol, 5.3 mL | C1CCOC1 | C4H8O
product | tert-Butyl 6-(2-(trimethylsilyl)ethynyl)pyridin-3-ylcarbamate | 0.5 g, 67% | C[Si](C#CC1=CC=C(C=N1)NC(OC(C)(C)C)=O)(C)C | C15H22N2O2Si
